US06992087B2
Preparation of 6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but 5,6-dihydro-7H-cyclopenta[b]pyridin-7-one and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, DMSO) δ) 8.49, 7.79, 7.36, 4.65, 3.38, 3.01-2.90, 2.55, 1.93; (MS/CI) calcd for C8H10N2+H 135.2, found 135.2.

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 5,6-dihydro-7H-cyclopenta[b]pyridin-7-one | N1=C2C(=CC=C1)CCC2=O | C8H7NO
product | 6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | N1=C2C(=CC=C1)CCC2N | C8H10N2
